US07335658B2
6-[4-(5-CHLORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 5-chloro-2-trifluoromethylbenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide, the title compound was obtained as a white solid (73% yield). 1H NMR (300 MHz, CDCl3) δ 8.05, 7.86, 7.68-7.65, 7.53-7.5, 7.35, 6.99, 4.05-3.99, 3.89-3.67, 3.52-3.46, 3.37-3.34, 1.75-1.6, 1.31-1.24, 0.71-0.62, 0.43-0.37, 0.02-0.03. 13C NMR (75 MHz, CDCl3) δ 165.9, 162.9, 159.9, 145.4, 138.8, 135.93, 135.9, 129.7, 128.6, 128.4, 121.4, 112.6, 46.3, 44.5, 44.3, 41.3, 39.2, 31.9, 29.5, 10.5, 4.4. MS (ES+) m/z 496.3 (M+1).

reactant | 5-chloro-2-trifluoromethylbenzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)C(F)(F)F | C8H3Cl2F3O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C15H23N5O
product | 6-[4-(5-CHLORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)Cl)C(F)(F)F)=O | C23H25ClF3N5O2
